US06660753B2
1-(3-Cyanophenyl)-4-(5-fluoro-2-pyridyl)-1 H-imidazole
In a screw-cap vial, added 4-(5-Fluoro-2-pyridyl)imidazole (0.06 g, 0.30 mmol), 3-Fluorobenzonitrile (0.04 ml, 0.36 mmol), potassium carbonate (0.21 g, 1.5 mmol) and dimethylformamide (1 ml). Stirred the resulting reaction mixture at 110° C. overnight. Cooled the reaction mixture to room temperature, diluted with chloroform (50 ml), sequentially washed with water (50 ml) and brine (50 ml). The organic phase was dried (sodium sulfate), filtered and concentrated in-vacuo. The crude residue was triturated with 10% diethyl ether in hexanes to yield the title compound (45 mg) as a dirty yellow colored solid. 1H-NMR (CDCl3), δ (ppm): 8.43 (d, 1H), 8.04 (dd, 1H), 7.93 (dd, 2H), 7.70 (m,4H), 7.48 (dt, 1H).

reactant | 4-(5-Fluoro-2-pyridyl)imidazole | 0.30 mmol, 0.06 g | FC=1C=CC(=NC1)C=1N=CNC1 | C8H6FN3
reactant | 3-Fluorobenzonitrile | 0.36 mmol, 0.04 ml | FC=1C=C(C#N)C=CC1 | C7H4FN
reactant | potassium carbonate | 1.5 mmol, 0.21 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(3-Cyanophenyl)-4-(5-fluoro-2-pyridyl)-1 H-imidazole | 45 mg | C(#N)C=1C=C(C=CC1)N1C=NC(=C1)C1=NC=C(C=C1)F | C15H9FN4
